US04255429
The starting material is prepared as follows: The mixture of 57.9 g of 2-(p-methoxyphenyl)-succinic anhydride, 26.3 g of 4- aminopyridine and 500 ml of xylene is refluxed on a water separator while stirring for 6.5 hours. The hot solution is decanted off, cooled, filtered and the residue recrystallized from ethanol, to yield the 3-(p-methoxyphenyl)-1-(4-pyridyl)-pyrrolidin-2,5-dione melting at 179°-180°; its 3,4-dimethoxy-analog melts at 172°-174°.

reactant | 2-(p-methoxyphenyl)-succinic anhydride | 57.9 g | COC1=CC=C(C=C1)C1C(=O)OC(C1)=O | C11H10O4
reactant | 4- aminopyridine | 26.3 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-(p-methoxyphenyl)-1-(4-pyridyl)-pyrrolidin-2,5-dione | COC1=CC=C(C=C1)C1C(N(C(C1)=O)C1=CC=NC=C1)=O | C16H14N2O3
